**********
* Copyright Intusoft 1997
* All Rights Reserved
**********
**********
*SRC=K1100E70;K1100E70;Sidacs;TECCOR; 118V 1A 
*SYM=SIDAC
.SUBCKT K1100E70  1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  1.18E+7
RR  6 3  1.18E+10
RT2 1 7  0.755
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=100 N=1.5 IBV=10N BV=118)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
*SRC=K1050E70;K1050E70;Sidacs;TECCOR; 113V 1A 
*SYM=SIDAC
.SUBCKT K1050E70  1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  1.13E+7
RR  6 3  1.13E+10
RT2 1 7  0.755
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=100 N=1.5 IBV=10N BV=113)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
*SRC=K1200E70;K1200E70;Sidacs;TECCOR; 125V 1A 
*SYM=SIDAC
.SUBCKT K1200E70  1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  1.25E+7
RR  6 3  1.25E+10
RT2 1 7  0.755
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=100 N=1.5 IBV=10N BV=125)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
*SRC=K1300E70;K1300E70;Sidacs;TECCOR; 138V 1A 
*SYM=SIDAC
.SUBCKT K1300E70  1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  1.38E+7
RR  6 3  1.38E+10
RT2 1 7  0.755
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=100 N=1.5 IBV=10N BV=138)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
*SRC=K1400E70;K1400E70;Sidacs;TECCOR; 146V 1A 
*SYM=SIDAC
.SUBCKT K1400E70  1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  1.46E+7
RR  6 3  1.46E+10
RT2 1 7  0.755
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=100 N=1.5 IBV=10N BV=146)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
*SRC=K1500E70;K1500E70;Sidacs;TECCOR; 170V 1A 
*SYM=SIDAC
.SUBCKT K1500E70  1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  1.7E+7
RR  6 3  1.7E+10
RT2 1 7  0.755
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=100 N=1.5 IBV=10N BV=170)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
*SRC=K2000F1;K2000F1;Sidacs;TECCOR; 215V 1A 
*SYM=SIDAC
.SUBCKT K2000F1   1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  2.15E+7
RR  6 3  2.15E+10
RT2 1 7  2.25
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=100 N=1.5 IBV=10N BV=215)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
*SRC=K2200F1;K2200F1;Sidacs;TECCOR; 230V 1A 
*SYM=SIDAC
.SUBCKT K2200F1   1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  2.3E+7
RR  6 3  2.3E+10
RT2 1 7  2.25
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=100 N=1.5 IBV=10N BV=230)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
*SRC=K2400F1;K2400F1;Sidacs;TECCOR; 250V 1A 
*SYM=SIDAC
.SUBCKT K2400F1   1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  2.5E+7
RR  6 3  2.5E+10
RT2 1 7  2.25
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=100 N=1.5 IBV=10N BV=250)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
*SRC=K2401F1;K2401F1;Sidacs;TECCOR; 250V 1A 
*SYM=SIDAC
.SUBCKT K2401F1   1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  2.5E+7
RR  6 3  2.5E+10
RT2 1 7  2.25
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=2K N=1.5 IBV=10N BV=250)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
*SRC=K2500F1;K2500F1;Sidacs;TECCOR; 280V 1A 
*SYM=SIDAC
.SUBCKT K2500F1   1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  2.8E+7
RR  6 3  2.8E+10
RT2 1 7  2.25
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=100 N=1.5 IBV=10N BV=280)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
*SRC=K2501F1;K2501F1;Sidacs;TECCOR; 280V 1A 
*SYM=SIDAC
.SUBCKT K2501F1   1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  2.8E+7
RR  6 3  2.8E+10
RT2 1 7  2.25
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=2K N=1.5 IBV=10N BV=280)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
*SRC=K3000F1;K3000F1;Sidacs;TECCOR; 330V 1A 
*SYM=SIDAC
.SUBCKT K3000F1   1  2
*     TERMINALS: MT2 MT1
QN1  5 4 2  NOUT; OFF
QN2  8 6 7  NOUT; OFF
QP1  6 8 2  POUT; OFF
QP2  4 5 7  POUT; OFF
DF  4 3  DZ; OFF
DR  6 3  DZ; OFF
RF  4 3  3.3E+7
RR  6 3  3.3E+10
RT2 1 7  2.25
RH  7 6  11.5
RH2 4 2  11.5
.MODEL DZ   D (IS=321F RS=100 N=1.5 IBV=10N BV=330)
.MODEL POUT PNP (IS=321F BF=10 CJE=134N TF=25.5U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=134N CJC=26.8N TF=1.7U)
.ENDS
**********
